US08198456B2
To a solution of 1H-indazole-5-carboxaldehyde (3.75 g, 25.7 mmol) in dioxane (120 mL) was added a solution of NaOH (15.48 g, 384.9 mmol) in water (120 mL). To this solution, iodine (8.2 g, 32 mmol) was added. After 1 hr at rt, more iodine (8.2 g, 32 mmol) was added, and the reaction mixture was stirred for an additional 1 hr at rt. After removal of most of the dioxane in vacuo, the reaction mixture was extracted with EtOAc, washed with brine, dried, and concentrated. The crude product was purified by flash chromatography to afford 3-iodo-1H-indazole-5-carboxaldehyde (4.5 g, 64.5%).

reactant | 1H-indazole-5-carboxaldehyde | 25.7 mmol, 3.75 g | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | NaOH | 384.9 mmol, 15.48 g | [OH-].[Na+]
reactant | iodine | 32 mmol, 8.2 g | II | I2
reactant | iodine | 32 mmol, 8.2 g | II | I2
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | water | 120 mL | O | H2O
product | 3-iodo-1H-indazole-5-carboxaldehyde | 4.5 g, 64.5% | IC1=NNC2=CC=C(C=C12)C=O | C8H5IN2O
